US09284312B2
To a solution of methyl 1-methyl-8-nitro-1,2-dihydroquinoline-7-carboxylate (1.25 g, 5.04 mmol) in degassed MeOH (25 mL) at rt was added Pd/C (125 mg). The mixture was stirred under 1 atm H2 for 16 h. The resulting mixture was filtered through celite and concentrated to afford methyl 8-amino-1-methyl-1,2,3,4-tetrahydroquinoline-7-carboxylate in pure form.

reactant | methyl 1-methyl-8-nitro-1,2-dihydroquinoline-7-carboxylate | 5.04 mmol, 1.25 g | CN1CC=CC2=CC=C(C(=C12)[N+](=O)[O-])C(=O)OC | C12H12N2O4
solvent | MeOH | 25 mL | CO | CH4O
catalyst | Pd/C | 125 mg | [Pd] | Pd
product | methyl 8-amino-1-methyl-1,2,3,4-tetrahydroquinoline-7-carboxylate | NC=1C(=CC=C2CCCN(C12)C)C(=O)OC | C12H16N2O2
